US08912186B2
The solution of ethyl 4-(2-benzimidazolyl)-3-(4-chlorophenyl)butanoate (200 mg) in a mixture of acetic acid (1 ml) and conc. HCl (0.25 ml) was heated at 100° C. for 1 h. Then toluene (30 ml) was added and all volatiles were removed by distillation. Distillation was repeated with further toluene (30 ml). The oily residue is treated with diethyl ether to induce crystallisation, triturated with acetone, and dried in vacuo to leave 4-(2-benzimidazolyl)-3-(4-chlorophenyl)butanoic acid•HCl (208 mg) as light red solid.

reactant | ethyl 4-(2-benzimidazolyl)-3-(4-chlorophenyl)butanoate | 200 mg | N1=C(NC2=C1C=CC=C2)CC(CC(=O)OCC)C2=CC=C(C=C2)Cl | C19H19ClN2O2
reactant | HCl | 0.25 ml | Cl | ClH
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 4-(2-benzimidazolyl)-3-(4-chlorophenyl)butanoic acid•HCl | 208 mg | N1=C(NC2=C1C=CC=C2)CC(CC(=O)O)C2=CC=C(C=C2)Cl.Cl | InChI=1S/C17H15ClN2O2.ClH/c18-13-7-5-11(6-8-13)12(10-17(21)22)9-16-19-14-3-1-2-4-15(14)20-16;/h1-8,12H,9-10H2,(H,19,20)(H,21,22);1H
